US07250418B2
Preparation of 5-[6-(dimethylamino)-4-methylpyridin-3-yl]-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine but substituting benzyl (3R,4S)-3-({5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3,6-diethyl pyrazin-2-yl}amino)-4-ethoxypyrrolidine-1-carboxylate provided the title compound as an oil: 1H NMR (400 MHz, CDCl3) δ) 7.98, 6.45, 5.30, 4.51, 4.04, 3.67, 3.52, 3.43, 3.19, 3.12, 2.92, 2.69, 2.51, 2.11, 1.32–1.25, 1.15; IR (liq.) 2971 (s), 2933 (s), 2873 (s), 2345 (b), 1946 (w), 1607 (s), 1565 (s), 1516 (s), 1490 (s), 1395 (s), 1373, 1207, 1163, 1125, 1080 cm−1 HRMS (ESI) calcd for C22H34N6O+H1 399.2872. found 399.2877.

reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C21H31N5O2
reactant | benzyl (3R,4S)-3-({5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3,6-diethyl pyrazin-2-yl}amino)-4-ethoxypyrrolidine-1-carboxylate | CN(C1=CC(=C(C=N1)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1)CC)C)C | C30H40N6O3
product | 5-[6-(dimethylamino)-4-methylpyridin-3-yl]-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | CN(C1=CC(=C(C=N1)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC)C)C | C22H34N6O
